US04593101
3-(3-Chloroanilino)butanoic acid is prepared in a manner similar to that described in Example 1, but starting from 3-chloroaniline (65 cc; 0.5 mol), crotonic acid (11.20 g; 0.129 mol) and distilled water (31 cc). After purification, a product (14.66 g; 68.6 mmol) is thus obtained in the form of a white powder which melts at about 50° C.

reactant | 3-chloroaniline | 0.5 mol, 65 cc | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | crotonic acid | 0.129 mol, 11.20 g | C(\C=C\C)(=O)O | C4H6O2
product | 3-(3-Chloroanilino)butanoic acid | ClC=1C=C(NC(CC(=O)O)C)C=CC1 | C10H12ClNO2
